US08791267B2
To a 40 mL vial equipped with a teflon screw cap and a magnetic stir bar was added 2-bromo-4-bromomethyl-1-methoxybenzene (649 mg, 2.32 mmol), [4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-urea (577 mg, 2.20 mmol) and potassium phosphate (933 mg, 4.40 mmol). To the vial was then added dimethoxyethane (15 mL), ethanol (3.7 mL) and water (3.7 mL). To this stirring solution was added tetrakis(triphenylphosphine) palladium (127 mg, 0.11 mmol) and the solution was degassed by bubbling N2 gas through the solution for 20 min. The vial was capped and placed in an oil bath with stirring at 65° C. for 12.5 h. The cooled reaction mixture was concentrated under a stream of N2 gas to a total volume of ˜5 mL and then diluted with ethyl acetate (20 mL) and water (10 mL). Upon shaking a white solid precipitates. The solid is filtered and dried to afford 272 mg (34%) of [4-(3-bromo-4-methoxy-benzyl)-phenyl]-urea (I-44) as a white solid.

reactant | 2-bromo-4-bromomethyl-1-methoxybenzene | 2.32 mmol, 649 mg | BrC1=C(C=CC(=C1)CBr)OC | C8H8Br2O
reactant | [4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-urea | 2.20 mmol, 577 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)NC(=O)N)C | C13H19BN2O3
reactant | potassium phosphate | 4.40 mmol, 933 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | dimethoxyethane | 15 mL | C(OC)COC | C4H10O2
catalyst | tetrakis(triphenylphosphine) palladium | 0.11 mmol, 127 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | 3.7 mL | O | H2O
solvent | ethanol | 3.7 mL | C(C)O | C2H6O
product | [4-(3-bromo-4-methoxy-benzyl)-phenyl]-urea | 272 mg, 34% | BrC=1C=C(CC2=CC=C(C=C2)NC(=O)N)C=CC1OC | C15H15BrN2O2
